US05157026
2-Ethyl-7-methyl-5-(isopropyl)-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine
To 5-bromo-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo-[4,5-b]pyridine (75 mg) in THF (2 mL) at -78° C. was sequentially added ZnCl2 (1.58 mL, 1M/ether), iso-propylmagnesium chloride (0.79 mL, 2M/ether), and tetrakis-triphenylphosphinepalladium (15 mg). After complete addition the reaction was warmed to RT and stirred for 16 hours. Extractive workup (EtOAc, from dilute HOAc), and purification (SiO2, 80/20/1 CH2Cl2 /MeOH/NH4OH) gave 43 mg of a solid.

reactant | 5-bromo-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo-[4,5-b]pyridine | 75 mg | BrC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C23H20BrN7
reactant | iso-propylmagnesium chloride | 2M, 0.79 mL | C(C)(C)[Mg]Cl
reactant | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 1M, 1.58 mL | [Cl-].[Cl-].[Zn+2]
product | 2-Ethyl-7-methyl-5-(isopropyl)-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 43 mg | C(C)C1=NC=2C(=NC(=CC2C)C(C)C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C26H27N7
